US09227985B2
Step 2. Methyl [2-(bromoacetyl)phenoxy]acetate
Bromine (1.2 g, 7.2 mmol) in chloroform (5 mL) was added drop wise to a solution of methyl (2-acetylphenoxy)acetate (1.5 g, 7.2 mmol) in chloroform (45 mL) at room temperature. The reaction mixture was stirred for 1 h at room temperature, diluted with EtOAc and washed with sodium bicarbonate water, brine, dried over magnesium sulfate and concentrated to give the sub-title compound as an oil which solidified (2.1 g, 100%). LCMS calc. for C11H12BrO4 (M+H)+: m/z=287.0, 289.0. found: 287.0, 289.0.

reactant | Bromine | 7.2 mmol, 1.2 g | BrBr | Br2
reactant | methyl (2-acetylphenoxy)acetate | 7.2 mmol, 1.5 g | C(C)(=O)C1=C(OCC(=O)OC)C=CC=C1 | C11H12O4
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 45 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl [2-(bromoacetyl)phenoxy]acetate | BrCC(=O)C1=C(OCC(=O)OC)C=CC=C1 | C11H11BrO4
